US07465731B2
To a solution of ethyl (2E)-3-{5-chloro-6-[(1-{[(4-chlorophenyl)amino]carbonyl}-4-piperidyl)amino]-3-pyridyl}acrylate (363 mg) in THF (3 ml) and MeOH (3 ml) was added 1N NaOH aq (2.35 ml), the mixture was stirred at 80° C. for 1 hour. The pH of the mixture was adjusted to ca.4.5 with 1N HCl aq. The solution was evaporated under reduced pressure to give crude 3-{5-Chloro-6-[1-(4-chlorophenylcarbamoyl)-piperidin-4-ylamino]-pyridin-3-yl}-acrylic acid.

reactant | ethyl (2E)-3-{5-chloro-6-[(1-{[(4-chlorophenyl)amino]carbonyl}-4-piperidyl)amino]-3-pyridyl}acrylate | 363 mg | ClC=1C=C(C=NC1NC1CCN(CC1)C(=O)NC1=CC=C(C=C1)Cl)/C=C/C(=O)OCC | C22H24Cl2N4O3
reactant | NaOH | 1N, 2.35 ml | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | MeOH | 3 ml | CO | CH4O
product | 3-{5-Chloro-6-[1-(4-chlorophenylcarbamoyl)-piperidin-4-ylamino]-pyridin-3-yl}-acrylic acid | ClC=1C=C(C=NC1NC1CCN(CC1)C(NC1=CC=C(C=C1)Cl)=O)C=CC(=O)O | C20H20Cl2N4O3
